US04851422
Under nitrogen atmosphere at -78° C., 4.29 ml of 1.5 M n-butyl lithium (hexane solution) was added, while stirring, to 0.98 ml of diisopropylamine dissolved in 13 ml of anhydous tetrahydrofuran. The stirring was conducted for 15 minutes. To the resultant was added, taking 5 minutes, 1.18 g of dimethyl 2-oxoglutarate dimethyl acetal dissolved in 7 ml of anhydrous tetrahydrofuran, followed by stirring for 15 minutes. To the mixture was added, taking 5 minutes, a solution of 0.76 ml of benzyl bromide and 0.28 ml of hexamethylphosphoramide in 7 ml of anhydrous tetrahydrofuran. The mixture was stirred for 30 minutes at -78° C. The temperature of the reaction solution was raised up to -20° C. under stirring taking 2 hours, followed by addition of saturated aqueous solution of ammonium chloride, which was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried (MgSO4), followed by evaporating off the solvent. The residue was subjected to a silicagel column chromalography, followed by elution with hexane-ethyl acetate (5:1→2:1) to give 1.64 g of dimethyl 4-benzyl-2-oxoglutarate dimethyl acetal as a pale yellow oily product.

reactant | n-butyl lithium | 1.5 M, 4.29 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.98 ml | C(C)(C)NC(C)C | C6H15N
reactant | dimethyl 2-oxoglutarate dimethyl acetal | 1.18 g | COC(C(CCC(=O)OC)=O)(OC)OC | C9H16O6
reactant | benzyl bromide | 0.76 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 0.28 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | dimethyl 4-benzyl-2-oxoglutarate dimethyl acetal | 1.64 g | COC(C(CC(C(=O)OC)CC1=CC=CC=C1)=O)(OC)OC | C16H22O6
